US04600429
Diethylbromoethanephosphonate (15.3 g, 0.062 moles) and 1.8-diaminooctane (54.0 g, 0.375 moles) were heated under reflux in water (250 cm3) for 5 hours. The water and excess diamine were then distilled off. Concentrated hydrochloric acid (280 cm3) was added and the solution heated under reflux for 8 hours. The solution was then evaporated to dryness on a rotary evaporator and the residue was dissolved in methanol (75 cm3) and propylene oxide wad added to pH 6. The phosphonic acid was filtered off and dried. The crude yield was 10.2 g (60.5%). A sample was purified by recrystallization from water/ethanol to give N-(8-aminooctyl)-2-aminoethanephosphonic acid monohydrate as a fine white crystalline solid having a melting point of 210° C.

reactant | Diethylbromoethanephosphonate | 0.062 moles, 15.3 g | C(C)CC(P([O-])(=O)[O-])(Br)CC
reactant | 1.8-diaminooctane | 0.375 moles, 54.0 g | NCCCCCCCCN | C8H20N2
solvent | water | 250 cm3 | O | H2O
product | N-(8-aminooctyl)-2-aminoethanephosphonic acid monohydrate | O.NCCCCCCCCNCCP(O)(=O)O | InChI=1S/C10H25N2O3P.H2O/c11-7-5-3-1-2-4-6-8-12-9-10-16(13,14)15;/h12H,1-11H2,(H2,13,14,15);1H2
